US06511993B1
3-Bromo-1-(tert-butoxy)benzene
Condensed isobutylene (100 ml) was added via a dry ice/acetone cold finger, to dichloromethane (70 ml) at −30° C., followed by a solution of 3-bromophenol (21.5 g, 125 mmol) in dichloromethane (30 ml). Trifluoromethanesulphonic acid (1.5 g, 10.0 mmol) was added dropwise, the reaction cooled to −75° C., and stirred for 2 hours. Triethylamine (1.4 ml, 10.0 mmol) was then added, the solution allowed to warm to room temperature and then concentrated in vacuo to remove the isobutylene. The remaining solution was washed with water, dried (Na2SO4), filtered and evaporated to give the desired product as a pale yellow oil, (33 g, slightly impure).

reactant | isobutylene | 100 ml | CC(C)=C | C4H8
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 3-bromophenol | 125 mmol, 21.5 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | Trifluoromethanesulphonic acid | 10.0 mmol, 1.5 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | Triethylamine | 10.0 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-Bromo-1-(tert-butoxy)benzene | BrC=1C=C(C=CC1)OC(C)(C)C | C10H13BrO
